US05502054
In a flask were placed 27.1 g (0.0773 mole) of diethyl 2-oxo-3-(3-methyl-3-phenyl-3-silabutyl)succinate, 301 g (0.464 mole) of 40 wt % tetrabutyl ammonium hydroxide, and 500 mL of water. This mixture was heated at reflux under a nitrogen atmosphere for 25 minutes after which it was cooled to ambient temperature. The reaction mixture was acidified with 50 mL of 12N hydrochloric acid and then extracted twice with 400 mL of diethyl ether. The extracts were combined and washed with 100 mL of 3N hydrochloric acid after which the solvent was evaporated under reduced pressure, yielding 17.45 g of 6-methyl-6-phenyl-2-oxo-6-silaheptanoic acid as an oil.

reactant | diethyl 2-oxo-3-(3-methyl-3-phenyl-3-silabutyl)succinate | 0.0773 mole, 27.1 g | O=C(C(=O)OCC)C(C(=O)OCC)CC[Si](C)(C1=CC=CC=C1)C | C18H26O5Si
reactant | tetrabutyl ammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 12N, 50 mL | Cl | ClH
solvent | water | 500 mL | O | H2O
product | 6-methyl-6-phenyl-2-oxo-6-silaheptanoic acid | 17.45 g | C[Si](CCCC(C(=O)O)=O)(C)C1=CC=CC=C1 | C13H18O3Si
